US08193199B2
To a solution of 1-(5-chloro-3-(3-fluorophenyl)quinoxalin-2-yl)ethanol (0.2875 g, 0.9497 mmol) in tetrahydrofuran (9.497 mL, 0.9497 mmol) were added triphenyl-phosphine (0.7473 g, 2.849 mmol), phthalimide (0.4192 g, 2.849 mmol), and diisopropyl azodicarboxylate (0.5518 mL, 2.849 mmol). The reaction mixture was stirred at room temperature. After 1 h, the mixture was concentrated under reduced pressure and partitioned between EtOAc (100 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography on a 40 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 20 min and 50% isocratic of EtOAc for 5 min as eluent to give 2-(1-(5-chloro-3-(3-fluorophenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione as a yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.19 (1H, dd, J=8.4, 1.4 Hz), 8.09 (1H, dd, J=7.6, 1.4 Hz), 7.91 (1H, dd, J=8.4, 7.6 Hz), 7.73-7.80 (2H, m), 7.60-7.68 (2H, m), 7.31-7.38 (1H, m), 7.14-7.24 (2H, m), 7.00-7.09 (1H, m), 6.04-6.13 (1H, m), 1.77 (3H., d, J=6.7 Hz); LC-MS (ESI) m/z 432.1 [M+H]+.

reactant | 1-(5-chloro-3-(3-fluorophenyl)quinoxalin-2-yl)ethanol | 0.9497 mmol, 0.2875 g | ClC1=C2N=C(C(=NC2=CC=C1)C(C)O)C1=CC(=CC=C1)F | C16H12ClFN2O
reactant | tetrahydrofuran | 0.9497 mmol, 9.497 mL | O1CCCC1 | C4H8O
reactant | triphenyl-phosphine | 2.849 mmol, 0.7473 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 2.849 mmol, 0.4192 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 2.849 mmol, 0.5518 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 2-(1-(5-chloro-3-(3-fluorophenyl)quinoxalin-2-yl)ethyl)isoindoline-1,3-dione | ClC1=C2N=C(C(=NC2=CC=C1)C(C)N1C(C2=CC=CC=C2C1=O)=O)C1=CC(=CC=C1)F | C24H15ClFN3O2
